US09255099B2
(e) 7-Isobutyl-5-methyl-3-(phenylamino)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
Phenyl isothiocyanate (0.17 mL, 1.4 mmol) is added to a solution of 6-hydrazinyl-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione (31 mg, 0.47 mmol) in DMF (10 mL). The reaction mixture is heated at 120° C. for 6 hours, and then evaporated to remove solvent under reduced pressure. The residue is further purified by silica-gel flash chromatography to give 20 mg of product (Yield: 41%). 1H NMR (400 MHz, DMSO-d6) 50.95 (s, 3H), 0.97 (s, 3H), 2.30 (m, 1H), 3.37 (s, 3H), 3.77 (d, 2H), 7.16-7.43 (m, 5H), 7.61 (s, 1H). MS (FAB) m/z 314.3 [M+H]+.

reactant | Phenyl isothiocyanate | 1.4 mmol, 0.17 mL | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 6-hydrazinyl-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | 0.47 mmol, 31 mg | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 7-Isobutyl-5-methyl-3-(phenylamino)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 20 mg, Yield: 41% | C(C(C)C)N1C(N(C(C=2C1=NNC2NC2=CC=CC=C2)=O)C)=O | C16H19N5O2
